US06166049
Preparation 6: (±)-3-[4-[2-[N-(2-Benzoxazolyl)-N-methylamino]ethoxy]phenyl]-2-(2-methoxyethoxy]propanoic acid
A mixture of methyl 3-[4-[2-[N-(2-benzoxazolyl)-N-methylamino]ethoxy]phenyl]-2-(2-methoxyethoxy)propanoate (1.08 g, Int. Patent Appl., Publication No. WO 9401420) and sodium hydroxide (253 mg) in methanol:water (1:1, 10 mL) was heated under reflux for 2 hours. After evaporation of the resultant mixture in vacuo, the residue was diluted with water, acidified to pH 5 with 2M hydrochloric acid and then extracted with ethyl acetate. Washing of the ethyl acetate extracts with water and drying (MgSO4) and evaporation gave the title compound as an oil which crystallised on trituration with diethyl ether/hexane. [Found C, 63.8; H, 6.5; N, 7.0%; M+ 414.1791. C22H26N2O6 requires C, 63.8; H, 6.3; N, 6.8%; M+ 414.1791]; δH (CDCl3) 2.91 (1H,dd), 3.15 (1H,dd), 3.34 (3H,s), 3.38 (3H,s), 3.41-3.69 (4H,m), 3.93 (2H,t), 4.05 (1H,dd), 4.21 (2H,t), 6.80 (2H,d) and 6.83-7.38 (6H m).

reactant | methyl 3-[4-[2-[N-(2-benzoxazolyl)-N-methylamino]ethoxy]phenyl]-2-(2-methoxyethoxy)propanoate | 1.08 g | O1C(=NC2=C1C=CC=C2)N(C)CCOC2=CC=C(C=C2)CC(C(=O)OC)OCCOC | C23H28N2O6
reactant | sodium hydroxide | 253 mg | [OH-].[Na+]
solvent | methanol water | 10 mL | CO.O
product | (±)-3-[4-[2-[N-(2-Benzoxazolyl)-N-methylamino]ethoxy]phenyl]-2-(2-methoxyethoxy]propanoic acid | O1C(=NC2=C1C=CC=C2)N(C)CCOC2=CC=C(C=C2)CC(C(=O)O)OCCOC | C22H26N2O6
